US04639468
(a) Synthesis of hexylaminoacetonitrile
In a flask of 100 ml, 5.7 gr of hydroxyacetonitrile (0.1 mol) were mixed with 11 gr of hexylamine (0.11 mol) dissolved in 10 ml of MeOH. The temperature quickly raised during mixing. The solution was allowed to stand for 24 hours. The methanol was evaporated and the obtained liquid was distilled at 72° under 0.8 mm Hg.

reactant | hydroxyacetonitrile | 0.1 mol, 100 ml, 5.7 gr | OCC#N | C2H3NO
reactant | hexylamine | 0.11 mol, 11 gr | C(CCCCC)N | C6H15N
solvent | MeOH | 10 ml | CO | CH4O
product | hexylaminoacetonitrile | C(CCCCC)NCC#N | C8H16N2
